US07829665B2
(1R,2S)-ethyl 1-((2S,4R)-1-((S)-4-(N-(but-3-enyl)-2-nitrophenylsulfonamido)-2-(tert-butoxycarbonylamino)butanoyl)-4-hydroxypyrrolidine-2-carboxamido)-2-vinylcyclopropanecarboxylate (1.60 g, 2.26 mmol) in toluene (20 mL) was added di(1H-imidazol-1-yl)methanone (0.48 g, 2.94 mmol) in one portion. The reaction was stirred at rt for 3 hrs. To the reaction was then added the N-ethyl-N-isopropylpropan-2-amine (1.97 ml, 11.30 mmol), followed by 4-Fluoroisoindoline hydrochloride (1.27 g, 4.52 mmol). The reaction was stirred at 60° C. for 3 hrs. The solvent was removed. The residue was partitioned between ethyl acetate (30 mL) and saturated sodium bicarbonate solution. The organic layer was separated and dried over sodium sulfate. After removal of solvent, the residue was purified by chromatography (Hexane:Ethyl acetate=1:2) to give (3R,5S)-1-((S)-4-(N-(but-3-enyl)-2-nitrophenylsulfonamido)-2-(tert-butoxycarbonylamino)butanoyl)-5-((1R,2S)-1-(ethoxycarbonyl)-2-vinylcyclopropylcarbamoyl)pyrrolidin-3-yl 4-fluoroisoindoline-2-carboxylate as white solid (1.65 g, 84%). MS: Calcd.: 870; Found: [M+H]+ 871.

reactant | (1R,2S)-ethyl 1-((2S,4R)-1-((S)-4-(N-(but-3-enyl)-2-nitrophenylsulfonamido)-2-(tert-butoxycarbonylamino)butanoyl)-4-hydroxypyrrolidine-2-carboxamido)-2-vinylcyclopropanecarboxylate | 2.26 mmol, 1.60 g | C(CC=C)N(S(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-])CC[C@@H](C(=O)N1[C@@H](C[C@H](C1)O)C(=O)N[C@]1([C@@H](C1)C=C)C(=O)OCC)NC(=O)OC(C)(C)C | C32H45N5O11S
reactant | di(1H-imidazol-1-yl)methanone | 2.94 mmol, 0.48 g | N1(C=NC=C1)C(=O)N1C=NC=C1 | C7H6N4O
reactant | N-ethyl-N-isopropylpropan-2-amine | 11.30 mmol, 1.97 ml | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 4-Fluoroisoindoline hydrochloride | 4.52 mmol, 1.27 g | Cl.FC1=C2CNCC2=CC=C1
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | (3R,5S)-1-((S)-4-(N-(but-3-enyl)-2-nitrophenylsulfonamido)-2-(tert-butoxycarbonylamino)butanoyl)-5-((1R,2S)-1-(ethoxycarbonyl)-2-vinylcyclopropylcarbamoyl)pyrrolidin-3-yl 4-fluoroisoindoline-2-carboxylate | 1.65 g, 84% | FC1=C2CN(CC2=CC=C1)C(=O)O[C@H]1CN([C@@H](C1)C(N[C@]1([C@@H](C1)C=C)C(=O)OCC)=O)C([C@H](CCN(S(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-])CCC=C)NC(=O)OC(C)(C)C)=O | C41H51FN6O12S
